US09238639B2
C) 1-(6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)-3-ethylurea
To a mixture of 6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-amine (146 mg) and THF (dry) (4.0 mL) was added ethyl isocyanate (0.048 mL) at 0° C. The mixture was stirred at 0° C. for 1 h. The mixture was poured into saturated aqueous NH4Cl at 0° C. and extracted with EtOAc. The organic layer was m washed with brine, dried over MgSO4, and concentrated in vacuo. The solid was washed with EtOH to give the title compound (74.0 mg).

reactant | 6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-amine | 146 mg | ClC1=C(COC2=CC3=C(C(CO3)N)C=C2)C=CC(=C1)Cl | C15H13Cl2NO2
reactant | ethyl isocyanate | 0.048 mL | C(C)N=C=O | C3H5NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 1-(6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)-3-ethylurea | 74.0 mg | ClC1=C(COC2=CC3=C(C(CO3)NC(=O)NCC)C=C2)C=CC(=C1)Cl | C18H18Cl2N2O3
